US07947678B2
Step A. (±)-6′-Bromo-1-methyl-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-2,5-dione
A mixture of 6-bromo-2-tetralone (1.00 g, 4.44 mmol) and methylamine hydrochloride (300 mg, 4.44 mol) in H2O (1 mL) and EtOH (1.5 mL) was stirred at ambient temperature for 20 min. Potassium cyanide (289 mg, 4.44 mmol) was added and stirring was continued for 18 h. The mixture was added dropwise to a stirred solution of 1.0 N aqueous HCl (4.5 mL) at 0° C., then potassium cyanate (360 mg, 4.44 mmol) was added portionwise. The stirred mixture was heated to 95° C. and conc. hydrochloric acid (0.44 mL) was added dropwise. The reaction mixture was heated at this temperature for 1 h, allowed to cool, and extracted with CH2Cl2 (80 mL). The organic extract was dried over Na2SO4, filtered, and concentrated to dryness. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:MeOH—100:0 to 90:10 to provide a crude sample of the title compound (ca. 70% pure). Trituration with EtOH afforded the title compound as a pale solid. MS: m/z=311 (M+1).

reactant | 6-bromo-2-tetralone | 4.44 mmol, 1.00 g | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | methylamine hydrochloride | 4.44 mol, 300 mg | Cl.CN
reactant | Potassium cyanide | 4.44 mmol, 289 mg | [C-]#N.[K+]
reactant | HCl | 1.0 N, 4.5 mL | Cl | ClH
reactant | potassium cyanate | 4.44 mmol, 360 mg | [O-]C#N.[K+]
reactant | hydrochloric acid | 0.44 mL | Cl | ClH
reactant | EtOH | 1.5 mL | CCO | C2H6O
solvent | H2O | 1 mL | O | H2O
product | (±)-6′-Bromo-1-methyl-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-2,5-dione | ca. 70% | BrC=1C=C2CCC3(CC2=CC1)NC(N(C3=O)C)=O | C13H13BrN2O2
